US08633173B2
{8-[2-(2,2-Difluoro-ethoxy)-5-methanesulfonyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-amine was prepared from 7-{8-[2-(2,2-difluoro-ethoxy)-5-methanesulfonyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.340 g, 0.555 mmol) and trifluoroacetic acid (1 mL) in a manner analogous to Example 312 to give product (0.262 g, 92%). MP=122-125° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.48 (s, 1H), 8.80 (d, 1H), 8.20 (s, 1H), 8.00 (d, 1H), 7.65 (d, 1H), 7.50 (m, 2H), 7.32 (s, 1H), 7.10 (t, 1H), 6.98 (d, 1H), 6.28 (br m, 1H), 4.54 (m, 2H), 3.23 (s, 3H), 2.67-2.77 (br m, 9H). MS=514 (MH)+.

reactant | 7-{8-[2-(2,2-difluoro-ethoxy)-5-methanesulfonyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 0.555 mmol, 0.340 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC(=C1)S(=O)(=O)C)OCC(F)F)=N2 | C30H33F2N5O5S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | {8-[2-(2,2-Difluoro-ethoxy)-5-methanesulfonyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-amine | FC(COC1=C(C=C(C=C1)S(=O)(=O)C)C=1C=2N(C=CC1)N=C(N2)NC2=CC1=C(CCNCC1)C=C2)F | C25H25F2N5O3S
